US04011230
As in Example 17, reaction of β-nitrostyrene with diethylammonium diethyldithiocarbamate in the presence of carbon disulfide gave α-(nitromethyl)benzyl diethyldithiocarbamate melting at 81° C.-82.5° C. when recrystallized without heating from acetone-2-propanol solution.

reactant | β-nitrostyrene | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
reactant | diethylammonium diethyldithiocarbamate | C(C)N(C([S-])=S)CC.C(C)[NH2+]CC
solvent | carbon disulfide | C(=S)=S | CS2
product | α-(nitromethyl)benzyl diethyldithiocarbamate | C(C)N(C(SC(C1=CC=CC=C1)C[N+](=O)[O-])=S)CC | C13H18N2O2S2
